US08236806B2
1-(4-methoxyphenyl)-4-(3-(1-phenyl-5-propyl-1H-pyrazol-3-yl)propyl)piperazine (Compound 151)
42 mg (28%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-phenyl-5-propyl-1H-pyrazol-3-yl)propanal (80 mg, 0.330 mmol), 1-(4-methoxyphenyl)piperazine (64 mg, 0.330 mmol), DIPEA (0.090 mL, 0.495 mmol) and NaBH(OAc)3 (210 mg, 0.990 mmol).

reactant | 3-(1-phenyl-5-propyl-1H-pyrazol-3-yl)propanal | 0.330 mmol, 80 mg | C1(=CC=CC=C1)N1N=C(C=C1CCC)CCC=O | C15H18N2O
reactant | 1-(4-methoxyphenyl)piperazine | 0.330 mmol, 64 mg | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
reactant | DIPEA | 0.495 mmol, 0.090 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.990 mmol, 210 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(4-methoxyphenyl)-4-(3-(1-phenyl-5-propyl-1H-pyrazol-3-yl)propyl)piperazine | COC1=CC=C(C=C1)N1CCN(CC1)CCCC1=NN(C(=C1)CCC)C1=CC=CC=C1 | C26H34N4O
